US07566784B2
D) 1-(4-(4-Amino-1H-pyrrolo[3,2-c]pyridin-1-yl)phenyl)-3-(2-(4-fluorophenyl)acetyl)thiourea, hydrochloride salt
tert-Butyl 1-(4-(3-(2-(4-fluorophenyl)acetyl)thioureido)phenyl)-1H-pyrrolo[3,2-c]pyridin4-ylcarbamate (10 mg, 0.19 mmol) was treated with 4 N HCl in dioxane (2 mL) and stirred at RT for 2 h. The reaction mixture was concentrated in vacuo and the remaining solid was triturated twice with EtOAc (˜0.5 mL) to afford the title compound as the hydrochloride salt (6.5 mg, 74%). 1H NMR (DMSO-d6) δ 12.48 (s, 1H), 11.80 (s, 1H), 8.42 (br s, 2H), 7.88 (d, 2H, J=8.5 Hz), 7.78 (d, 1H, J=3.1 Hz), 7.64-7.55 (m, 3H), 7.38 (dd, 2H, J=7.6, 6.2 Hz), 7.27 (d, 1H, J=3.1 Hz), 7.18 (t, 2H, J=9.7 Hz), 6.97 (d, 1H, J=7.0 Hz), 3.83 (s, 2H); LCMS (ESI+) m/z 420 (M+H)+; HPLC tR=3.42 min.

reactant | tert-Butyl 1-(4-(3-(2-(4-fluorophenyl)acetyl)thioureido)phenyl)-1H-pyrrolo[3,2-c]pyridin4-ylcarbamate | 0.19 mmol, 10 mg | FC1=CC=C(C=C1)CC(=O)NC(NC1=CC=C(C=C1)N1C=CC=2C(=NC=CC21)NC(OC(C)(C)C)=O)=S | C27H26FN5O3S
reactant | HCl | 4 N | Cl | ClH
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 1-(4-(4-Amino-1H-pyrrolo[3,2-c]pyridin-1-yl)phenyl)-3-(2-(4-fluorophenyl)acetyl)thiourea, hydrochloride salt | Cl.NC1=NC=CC2=C1C=CN2C2=CC=C(C=C2)NC(=S)NC(CC2=CC=C(C=C2)F)=O | InChI=1S/C22H18FN5OS.ClH/c23-15-3-1-14(2-4-15)13-20(29)27-22(30)26-16-5-7-17(8-6-16)28-12-10-18-19(28)9-11-25-21(18)24;/h1-12H,13H2,(H2,24,25)(H2,26,27,29,30);1H
